US08008298B2
(1-Methyl-cyclopentyl)-[2-(3-morpholin-4-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone was prepared starting from (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclopentyl)-methanone and 4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]morpholine following general procedures as described in these Examples. M+H=391.

reactant | (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclopentyl)-methanone | BrC=1N=C2C(=NC1)NC=C2C(=O)C2(CCCC2)C | C13H14BrN3O
reactant | 4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]morpholine | CC1(OB(OC1(C)C)C=1C=C(C=CC1)N1CCOCC1)C | C16H24BNO3
product | (1-Methyl-cyclopentyl)-[2-(3-morpholin-4-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone | CC1(CCCC1)C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=CC=C2)N2CCOCC2 | C23H26N4O2
